US05306600
2a) 1-Trimethylsiloxy-2,3,5,6-tetrafluorobenzene
In a sulfation flask, 124.6 g (0.75 mol) of 2,3,5,6-tetrafluorophenol are dissolved in 200 ml of absolute acetonitrile. Then, at room temperature and with cooling, first 64.6 g (0.40 mol) of hexamethyldisilazane are added dropwise and subsequently 43.5 g (0.40 mol) of trimethylchlorosilane are slowly added dropwise. The mixture is then stirred for a further two hours at room temperature. The resulting precipitate of ammonium chloride is filtered off and washed with acetonitrile. The combined filters are evaporated on a vacuum rotary evaporator at 20° C. and a pressure of 19 mbar, and the residue is distilled at a pressure of 16 mbar. 140.8 of a colourless oil which boils at 16-18 mbar and a temperature of 63°-64° C. are obtained.

reactant | 2,3,5,6-tetrafluorophenol | 0.75 mol, 124.6 g | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | hexamethyldisilazane | 0.40 mol, 64.6 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylchlorosilane | 0.40 mol, 43.5 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-Trimethylsiloxy-2,3,5,6-tetrafluorobenzene | C[Si](OC1=C(C(=CC(=C1F)F)F)F)(C)C | C9H10F4OSi
